US04308391
To a cold (5° C.) mixture of 55.0 g (0.423 mole) of ethyl acetoacetate, 70 ml. of benzene, 18.3 ml. of 33% sodium hydroxide, and 141 ml. of water was added simultaneously with vigorous stirring 80.0 g (0.457 mole) of o-chlorobenzoyl chloride and 76 ml. of 33% sodium hydroxide in 1 hour. The aqueous solution of the sodium salt of ethyl o-chlorobenzoylacetoacetate was stirred with 22.5 g (0.424 mole) of ammonium chloride for 18 hours. The aqueous solution was then saturated with 25.0 g of sodium chloride. At this moment, some precipitate formed which was filtered. The analysis indicated this material was mainly the sodium salt of ethyl o-chlorobenzoylacetoacetate. The sodium salt and the aqueous filtrate were combined and acidified with dilute hydrochloric acid. The oil which separated was extracted with ether. The ether solution was dried (MgSO4) and concentrated under reduced pressure. The residue was Kugelrohr distilled to give 30.0 g of oil which contained mainly ethyl o-chlorobenzoylacetoacetate. This material was stirred with a mixture of 7.2 g of ammonium chloride, 14 ml. of concentrated ammonium hydroxide and 150 ml. of water and worked up as described in Example 4 to give 16.6 g (15% ) of crude ethyl o-chlorobenzoylacetate which was about 92% pure. A mixture of 15.0 g. (0.065 mole) of ethyl o-chlorobenzoylacetate, 9.5 (0.070 mole) of sulfuryl chloride and 20 ml. of chloroform was held at reflux for 6 hours and concentrated to give 17.3 g of crude ethyl 2-chloro-o-chlorobenzoylacetate. A mixture of 17.0 g (0.065 mole) of ethyl 2-chloro-o-chlorobenzoylacetate, 4.94 g (0.065 mole) of thiourea and 65 ml. of ethanol was held at reflux for 2 hours and worked up as described in Example 4 to give 15.0 g of solid, m.p. 114°-136° C. which was recrystallized twice from ethanol to give 5.8 g (31%) of ethyl 2-amino-4-(o-chlorophenyl)- 5-thiazolecarboxylate, m.p. 165°-166° C.

reactant | ethyl o-chlorobenzoylacetate | 0.065 mole | ClC1=C(C(=O)CC(=O)OCC)C=CC=C1 | C11H11ClO3
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-chloro-o-chlorobenzoylacetate | 17.3 g | ClC1(C(C(=O)CC(=O)OCC)C=CC=C1)Cl | C11H12Cl2O3
